US05972950
To a suspension of 50 g (0.118 mole) of (Z)-3-ethoxycarbonyl-4-(4-chlorophenyl)-4-(4-methanesulphonylphenyl)-3-butenoic acid, prepared in example 3, in 1000 ml of ethanol is added a solution of 10.4 g (0.26 mole) of sodium hydroxide in 25 ml of water. The mixture is heated under reflux for 6 hours, the precipitate is filtered off and washed with ethanol. The solid is then taken up into 500 ml of a 1N sodium hydroxide solution and the insoluble is filtered off. The aqueous phase is washed with dichloromethane and then acidified with hydrochloric acid to pH=1. After one hour's stirring, the precipitate obtained is filtered under suction, washed with water and dried to give 38.4 g of (Z)-2-[1-(4-chlorophenyl)-1-(4-methanesulphonylphenyl)-methylene]succinic acid in the form of crystals with a melting point of 199-200° C.

reactant | (Z)-3-ethoxycarbonyl-4-(4-chlorophenyl)-4-(4-methanesulphonylphenyl)-3-butenoic acid | 0.118 mole, 50 g | C(C)OC(=O)\C(\CC(=O)O)=C(\C1=CC=C(C=C1)S(=O)(=O)C)/C1=CC=C(C=C1)Cl | C20H19ClO6S
reactant | sodium hydroxide | 0.26 mole, 10.4 g | [OH-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | (Z)-2-[1-(4-chlorophenyl)-1-(4-methanesulphonylphenyl)-methylene]succinic acid | 38.4 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C(/C(=O)O)\CC(=O)O | C18H15ClO6S
